US07855297B2
By the reaction and treatment in the same manner as in Example 82 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-8-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.75 g) and 1-(tert-butyloxycarbonyl)-4-(hydroxymethyl)pyrazole (0.84 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-8-methyl-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.22 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-8-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.75 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)C)C(=O)NC=1C=NC(=CC1)C(C)C | C27H30N2O2
reactant | 1-(tert-butyloxycarbonyl)-4-(hydroxymethyl)pyrazole | 0.84 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)CO | C9H14N2O3
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-8-methyl-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.22 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)C)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C | C31H34N4O2
